US08053440B2
2-(4-(Dimethylamino)naphthalen-1-yl)-6,7-dimethoxyquinazolin-4(3H)-one was synthesized from 2-amino-4,5-dimethoxy-benzamide and 4-Dimethylamino-naphthalene-1-carbaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(4-(dimethylamino)naphthalen-1-yl)-6,7-dimethoxy-quinazolin-4(3H)-one (159 mg, 56%) was isolated as a white solid. Selected data: MS (m/z): 376.13; MP 235.5-236.5° C.

reactant | 2-amino-4,5-dimethoxy-benzamide | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | 4-Dimethylamino-naphthalene-1-carbaldehyde | CN(C1=CC=C(C2=CC=CC=C12)C=O)C | C13H13NO
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(4-(dimethylamino)naphthalen-1-yl)-6,7-dimethoxy-quinazolin-4(3H)-one | 159 mg, 56% | CN(C1=CC=C(C2=CC=CC=C12)C1=NC2=CC(=C(C=C2C(N1)=O)OC)OC)C | C22H21N3O3
